US03974212
Step B: 2,3-Dichloro-4-(2-cyclopentylacryloyl)-anisole
2',3'-Dichloro-4'-methoxy-2-cyclopentyl-acetophenone (51.6 g., 0.18 mole) is dissolved in dioxane (460 ml.) and paraformaldehyde (21.6 g., 0.72 mole) and concentrated sulfuric acid (9.65 g.) are added. The mixture is heated at 80°-85°C. for 20 hours. The dioxane is evaporated at reduced pressure. Water is added to the residual gum which then is extracted into ether. The ether extract is washed with water and dried over magnesium sulfate. The ether is evaporated and upon triturating the residue with hexane (5 ml.) there is obtained a solid that is crystallized from ligroin to obtain (33.3 g.), m.p. 59°-63°C. Crystallization from butyl chloride affords a sample (m.p. 66°-67.5°C.) for analysis.

reactant | 2',3'-Dichloro-4'-methoxy-2-cyclopentyl-acetophenone | 0.18 mole, 51.6 g | ClC1=C(C=CC(=C1Cl)OC)C(CC1CCCC1)=O | C14H16Cl2O2
reactant | paraformaldehyde | 0.72 mole, 21.6 g | C=O | CH2O
reactant | sulfuric acid | 9.65 g | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 460 ml | O1CCOCC1 | C4H8O2
product | 2,3-Dichloro-4-(2-cyclopentylacryloyl)-anisole | ClC1=C(C=CC(=C1Cl)C(C(=C)C1CCCC1)=O)OC | C15H16Cl2O2
